US07199120B2
N-(4-{7-Chloro-2-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-3-yl}-2-pyrimidinyl)-N-cyclopentylamine (60 mg, 0.13 mmol) was dissolved in cyclopentylamine (4 mL). To this solution was added successively rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (31 mg, 0.05 mmol), cesium carbonate (61 mg, 0.18 mmol) and palladium (II) acetate (6 mg, 0.03 mmol). The resulting mixture was stirred at 90° C. for 24 hours, at which time the reaction was judged complete by thin layer chromatography. The solution was cooled to room temperature and ethyl acetate and water were added to the reaction mixture. The phases were separated, and the aqueous phase again extracted with ethyl acetate. The combined organic phases were dried (magnesium sulfate), filtered and concentrated. The resulting residue was purified by flash chromatography (1:1 hexanes:ethyl acetate) to give 20 mg (30%) of N-cyclopentyl-2,3-bis[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine as a foam. 1H NMR (CDCl3): δ 8.38 (d, 1H), 8.02 (broad s, 1H), 7.63 (d, 1H), 7.33 (t, 1H), 6.93 (s, 1H), 6.59 (d, 1H), 6.07 (d, 1H), 6.03 (m, 1H), 5.21 (m, 1H), 4.32 (m, 1H), 4.23 (m, 1H), 4.00 (m, 1H), 1.4–2.2 (m, 24H); MS m/z 524 (M+1).

reactant | N-(4-{7-Chloro-2-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-3-yl}-2-pyrimidinyl)-N-cyclopentylamine | 0.13 mmol, 60 mg | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=NC(=NC=C2)NC2CCCC2 | C25H27ClN8
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.05 mmol, 31 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 0.18 mmol, 61 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | cyclopentylamine | 4 mL | C1(CCCC1)N | C5H11N
catalyst | palladium (II) acetate | 0.03 mmol, 6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | N-cyclopentyl-2,3-bis[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine | 20 mg, 30% | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=NC(=NC=C2)NC2CCCC2 | C30H37N9
